US07662831B2
Following the procedure of Example 1, Step 4, 5,6,9,10,11,12-hexahydro-4H,8H-cyclohepta[4,5]pyrrolo[3,2,1-ij]quinolin-2-amine (0.10 g, 0.42 mmol), isovaleryl chloride (0.051 mL, 0.42 mmol) and poly-(4-vinylpyridine) (600 mg) in dichloroethane (15 mL) provided 0.09 g of N-5,6,9,10,11,12-hexahydro-4H,8H-cyclohepta[4,5]pyrrolo[3,2,1-ij]quinolin-2-yl-3-methylbutanamide. MS (ES) m/z 325.2; HPLC purity 100% at 210-370 nm, 10.8 min.; 99.4% at 252 nm, 10.8 min. (Xterra RP18, 3.5 u, 150×4.6 mm column, 1.2 mL/min, 85/15-5/95 (Ammon. Form. Buff. pH=3.5/ACN and MeOH) for 10 min, hold 4 min); HRMS: calcd for C21H28N2O+H+, 325.22744; found (ESI, [M+H]+), 325.2269.

reactant | 5,6,9,10,11,12-hexahydro-4H,8H-cyclohepta[4,5]pyrrolo[3,2,1-ij]quinolin-2-amine | 0.42 mmol, 0.10 g | C1=C(C=C2CCCN3C2=C1C1=C3CCCCC1)N | C16H20N2
reactant | isovaleryl chloride | 0.42 mmol, 0.051 mL | C(CC(C)C)(=O)Cl | C5H9ClO
solvent | dichloroethane | 15 mL | ClC(C)Cl | C2H4Cl2
product | N-5,6,9,10,11,12-hexahydro-4H,8H-cyclohepta[4,5]pyrrolo[3,2,1-ij]quinolin-2-yl-3-methylbutanamide | 0.09 g | C1=C(C=C2CCCN3C2=C1C1=C3CCCCC1)NC(CC(C)C)=O | C21H28N2O
